US08859549B2
4-(4-bromophenylthio)phthalazin-1(2H)-one
4-chlorophthalazin-1(2H)-one and 4-bromobenzenethiol were processed using a method similar to that described in Example 57A to afford the title compound. MS (APCI) M/Z 374 (M+CH3CN)+.

reactant | 4-chlorophthalazin-1(2H)-one | ClC1=NNC(C2=CC=CC=C12)=O | C8H5ClN2O
reactant | 4-bromobenzenethiol | BrC1=CC=C(C=C1)S | C6H5BrS
product | 4-(4-bromophenylthio)phthalazin-1(2H)-one | BrC1=CC=C(C=C1)SC1=NNC(C2=CC=CC=C12)=O | C14H9BrN2OS
